US03950522
To 4.0 g. (0.026 mole) of 2-(2-pyridyl)thioacetamide in 20 ml. of water at 0°C. is added 2.9 g. (0.053 mole) of propargylamine with stirring and the resulting suspension is allowed to stand overnight at 5°C. Ethanol (5 ml.) is added and the mixture is stirred for 5 hours, then extracted with dichloromethane. The extracts are dried and concentrated. The residue is chromatographed on a silica gel "dry-column", using 1:10 ethyl acetate/ether as the eluant. The product fraction is treated with charcoal, filtered, concentrated and the residue is recrystallized from benzene/ligroin to give N-propargyl-2-(2-pyridyl)thioacetamide, m.p. 62°-63°C.

reactant | 2-(2-pyridyl)thioacetamide | 0.026 mole | N1=C(C=CC=C1)CC(=S)N | C7H8N2S
reactant | water | O | H2O
reactant | propargylamine | 0.053 mole | C(C#C)N | C3H5N
solvent | Ethanol | 5 ml | C(C)O | C2H6O
product | N-propargyl-2-(2-pyridyl)thioacetamide | C(C#C)NC(CC1=NC=CC=C1)=S | C10H10N2S
